US06649611B2
(2R)-2-Amino-ethanesulfonic acid (5-chloro-2-{2-[4-(4-fluoro-benzyl)-2-methyl-piperazin-1-yl]-2-oxo-ethoxy}-phenyl)-amide
To a solution of 2-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-ethanesulfonic acid (5-chloro-2-{2-[4-(4-fluoro-benzyl)-2-methyl-piperazin-1-yl]-2-oxo-ethoxy}-phenyl)-amide (0.030 g, 0.048 mmol) in EtOH (1 mL) at ambient temperature was added hydrazine hydrate (0.025 mL). The reaction was stirred overnight at ambient temperature then diluted with water and extracted with methylene chloride (2×). The combined organics were washed with saturated aqueous brine and dried over sodium sulfate, filtered and concentrated in vacuo. Purification via radial chromatography (2 mm plate) gave the title compound (0.014 g).

reactant | 2-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-ethanesulfonic acid (5-chloro-2-{2-[4-(4-fluoro-benzyl)-2-methyl-piperazin-1-yl]-2-oxo-ethoxy}-phenyl)-amide | 0.048 mmol, 0.030 g | ClC=1C=CC(=C(C1)NS(=O)(=O)CCN1C(C2=CC=CC=C2C1=O)=O)OCC(=O)N1C(CN(CC1)CC1=CC=C(C=C1)F)C | C30H30ClFN4O6S
reactant | hydrazine hydrate | 0.025 mL | O.NN
solvent | EtOH | 1 mL | CCO | C2H6O
solvent | water | O | H2O
product | (2R)-2-Amino-ethanesulfonic acid (5-chloro-2-{2-[4-(4-fluoro-benzyl)-2-methyl-piperazin-1-yl]-2-oxo-ethoxy}-phenyl)-amide | 0.014 g | ClC=1C=CC(=C(C1)NS(=O)(=O)CCN)OCC(=O)N1[C@@H](CN(CC1)CC1=CC=C(C=C1)F)C | C22H28ClFN4O4S
